US03987172
To a mixture of 1.95 g. (0.008 mole) of 4-(2-aminoethyl)-1-piperidinesulfonamide hydrochloride and 2.22 ml. (0.016 mole) of triethylamine in 15 ml. of dry tetrahydrofuran, there were added 1.41 g. (0.008 mole) of 4-chloropicolinoyl chloride dissolved in 15 ml. of tetrahydrofuran. The initial addition step was slightly exothermic (~40° C.) and after completion of same, the resulting reaction mixture was stirred at ambient temperatures for a period of approximately 16 hours. At this point, the thoroughly stirred mixture was poured into 50 ml. of ice water and subsequently acidified with a few drops of 3N aqueous hydrochloric acid. The resulting crystalline precipitate was then recovered by means of suction filtration and thereafter recrystallized twice from acetonitrile to afford 0.997 g. of pure product. In this way, there was ultimately obtained a 36% of 4-[2-(4-chloropicolinamido)ethyl]-1-piperidinesulfonamide, m.p. 186°-187° C.

reactant | 4-(2-aminoethyl)-1-piperidinesulfonamide hydrochloride | 0.008 mole | Cl.NCCC1CCN(CC1)S(=O)(=O)N
reactant | triethylamine | 0.016 mole | C(C)N(CC)CC | C6H15N
reactant | 4-chloropicolinoyl chloride | 0.008 mole | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
catalyst | hydrochloric acid | 3N, a few drops | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[2-(4-chloropicolinamido)ethyl]-1-piperidinesulfonamide | 36% | ClC1=CC(=NC=C1)C(=O)NCCC1CCN(CC1)S(=O)(=O)N | C13H19ClN4O3S
